US04663457
[[Cyclopropyl[6-[4-(ethoxycarbonyl)-1-piperazinyl]-5-fluoro-2-pyridinyl]amino]methylene]propanedioic acid, diethyl ester
A solution of 3.8 g (12.3 mmole) of 4-[6-(cyclopropylamino)-3-fluoro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester, 2.7 g (12.3 mmole) of diethyl(ethoxymethylene)malonate and 50 ml of xylene was refluxed for 24 hours. The solvent was removed in vacuo and the residue was chromatographed over silica gel eluting with chloroform/ethyl acetate (80/20) to give 2.3 g of the title compound as a viscous oil which was used without further purification.

reactant | 4-[6-(cyclopropylamino)-3-fluoro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester | 12.3 mmole, 3.8 g | C1(CC1)NC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)F | C15H21FN4O2
reactant | diethyl(ethoxymethylene)malonate | 12.3 mmole, 2.7 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | [[Cyclopropyl[6-[4-(ethoxycarbonyl)-1-piperazinyl]-5-fluoro-2-pyridinyl]amino]methylene]propanedioic acid, diethyl ester | 2.3 g | C1(CC1)N(C1=NC(=C(C=C1)F)N1CCN(CC1)C(=O)OCC)C=C(C(=O)OCC)C(=O)OCC | C23H31FN4O6
